US06268387B1
3-(3,5-Dichloro-benzylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 50 using 3,5-dichloro-benzaldehyde (0.88 g, 5.0 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (1.22 g, 5.0 mmol), acetic acid (0.24 g, 5.3 mmol), and sodium triacetoxyborohydride (1.12 mmol) to afford the product (0.65 g); m.p. 164-165° C. after recrystallization from ethanol.

reactant | 3,5-dichloro-benzaldehyde | 5.0 mmol, 0.88 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 5.0 mmol, 1.22 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | acetic acid | 5.3 mmol, 0.24 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.12 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3-(3,5-Dichloro-benzylamino)-4-methoxy-N-phenyl-benzamide | 0.65 g | ClC=1C=C(CNC=2C=C(C(=O)NC3=CC=CC=C3)C=CC2OC)C=C(C1)Cl | C21H18Cl2N2O2
